US07700628B2
Preparation of N-(5-Chloropyridin-2-yl)-2-[4-(N,N-dimethylamino)-2-(1-isopropyl-piperidin-4-yloxy)benzoylamino]benzamide Hydrochloride
To a mixture of N-(5-chloropyridin-2-yl)-2-[4-(N,N-dimethylamino)-2-(piperidin-4-yloxy)benzoylamino]benzamide (250 mg, 0.51 mmol), acetone (0.07 mL, 1.0 mmol) and 20% AcOH/MeOH (2 mL) was added a solution of 0.25 M NaCNBH3/MeOH (2 mL, 0.5 mmol). The reaction was stirred for 24 hours and then it was diluted with water and CH2Cl2. After partitioning, the organic layer was washed with 50% satd Na2 CO3, dried over Na2 SO4, and concentrated. The residue was HPLC chromatographed (Vydac, 5% CH3 CN in 0.1% TFA/H2O to 70% CH3 CN in 0.1% TFA/H2O, t=28.8 m) and then treated with HCl to give the desired product as a white solid (66 mg, 23%).

reactant | N-(5-chloropyridin-2-yl)-2-[4-(N,N-dimethylamino)-2-(piperidin-4-yloxy)benzoylamino]benzamide | 0.51 mmol, 250 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)N(C)C)OC1CCNCC1)=O)=O | C26H28ClN5O3
reactant | acetone | 1.0 mmol, 0.07 mL | CC(=O)C | C3H6O
reactant | AcOH MeOH | 2 mL | CC(=O)O.CO
reactant | NaCNBH3 MeOH | 0.5 mmol, 0.25 M, 2 mL | [BH3-]C#N.[Na+].CO
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-2-[4-(N,N-dimethylamino)-2-(1-isopropyl-piperidin-4-yloxy)benzoylamino]benzamide Hydrochloride | 66 mg, 23% | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)N(C)C)OC1CCN(CC1)C(C)C)=O)=O | InChI=1S/C29H34ClN5O3.ClH/c1-19(2)35-15-13-22(14-16-35)38-26-17-21(34(3)4)10-11-24(26)29(37)32-25-8-6-5-7-23(25)28(36)33-27-12-9-20(30)18-31-27;/h5-12,17-19,22H,13-16H2,1-4H3,(H,32,37)(H,31,33,36);1H
